US08309546B2
2-{4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]piperazin-1-yl}-2-oxoethanol
1-Hydroxybenzotriazole monohydrate (37.9 mg, 0.25 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (71.2 mg, 0.37 mmol), and triethylamine (51.7 μl, 0.37 mmol) were added to an N,N-dimethylformamide suspension (2.0 ml) of 5-[9-(isobutyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine (108.5 mg, 0.25 mmol) and glycolic acid (22.6 mg, 0.30 mmol) at room temperature. The resulting mixture was stirred for 21 hours and then the reaction mixture was poured into methylene chloride-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (89.2 mg, 73%) as a pale yellow solid.

reactant | 1-Hydroxybenzotriazole monohydrate | 0.25 mmol, 37.9 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.37 mmol, 71.2 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.37 mmol, 51.7 μl | C(C)N(CC)CC | C6H15N
reactant | 5-[9-(isobutyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.25 mmol, 108.5 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H30N10O
reactant | glycolic acid | 0.30 mmol, 22.6 mg | C(CO)(=O)O | C2H4O3
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 2-{4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]piperazin-1-yl}-2-oxoethanol | 89.2 mg, 73% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1CCN(CC1)C(CO)=O)N1CCOCC1 | C23H32N10O3
